### PR TITLE
[Merged by Bors] - feat(RingTheory): local isomorphisms

### PR DESCRIPTION
**Pull request by chrisflav**
We add the class of algebras that are locally (on the geometric source) standard open immersions. This will be used to define ind-Zariski algebras, which are an important tool to study ind-étale algebras.

From Proetale.

---

- [x] depends on: #38177

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LocalIso.lean [hunk 1]
```diff
@@ -0,0 +1,186 @@
...
+  exact hgm (hms (Ideal.subset_span hstd))
+
+lemma iff_span_isStandardOpenImmersion_eq_top :
+    IsLocalIso R S ↔
+      Ideal.span {g : S | IsStandardOpenImmersion R (Localization.Away g)} = ⊤ := by
+  refine ⟨fun _ ↦ span_isStandardOpenImmersion_eq_top R S, fun h ↦ ⟨fun q hq ↦ ?_⟩⟩
+  by_contra!
+  apply hq.ne_top
+  rw [_root_.eq_top_iff, ← h, Ideal.span_le]
+  grind [SetLike.mem_coe]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/LocalIso.lean]:
```suggestion
  grind [Ideal.IsPrime.ne_top, Ideal.span_le, SetLike.mem_coe]
```

File: Mathlib/RingTheory/LocalIso.lean [hunk 2]
```diff
@@ -0,0 +1,186 @@
...
+
+universe w v u
+
+public section
+
+open TensorProduct
+
+/-- An `R`-algebra `S` is a local isomorphism if source locally (in the geometric sense),
+it is a standard open immersion. -/
+@[stacks 096E "(1) in the algebra formulation"]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/LocalIso.lean]:
```suggestion
@[stacks 096E "(1) in the algebra formulation", mk_iff]
```

File: Mathlib/RingTheory/LocalIso.lean [hunk 3]
```diff
@@ -0,0 +1,186 @@
...
+  have heq : Ideal.span (Set.range fun i : s ↦ i.1) = ⊤ := by simpa
+  have (i : s) : IsLocalIso R (Localization.Away i.1) := h _ i.property
+  exact .of_span_range_eq_top _ heq fun i ↦ Localization.Away i.1
+
+lemma pi_of_finite {ι : Type*} (R : Type*) (S : ι → Type*) [CommSemiring R]
+    [∀ i, CommRing (S i)] [∀ i, Algebra R (S i)] [Finite ι] [∀ i, IsLocalIso R (S i)] :
+    IsLocalIso R (∀ i, S i)  := by
+  classical
+  let (i : ι) : Algebra (∀ i, S i) (S i) := (Pi.evalAlgHom R S i).toAlgebra
+  have (i : ι) : IsLocalization.Away ((fun i ↦ Pi.single i (1 : S i)) i) ((fun i ↦ S i) i) := by
```
Comment (robin-carlier) [inline Mathlib/RingTheory/LocalIso.lean]:
```suggestion
  have (i : ι) : IsLocalization.Away (Pi.single i (1 : S i)) (S i) := by
```

**Review by robin-carlier — COMMENTED** [review]
It’s a bit of a bummer that the second half of the `trans` proof has to be this long, but I can’t do much better...

**Comment by chrisflav** [comment]
> It’s a bit of a bummer that the second half of the `trans` proof has to be this long, but I can’t do much better...

Agreed, in particular because the "same proof" in algebraic geometry language is this short and nice: https://github.com/leanprover-community/mathlib4/blob/6ac03968135f47e493271a20fdc64970d912a898/Mathlib/AlgebraicGeometry/Morphisms/LocalClosure.lean#L92-L97

**Comment by chrisflav** [comment]
And in fact, one of my TODOs is to:

- generalize that file to arbitrary precoverages
- nuke the whole `RingHom` property API and replace it by `MorphismProperty` language
- get Kenny to fix his PR #27215
- and then golf both the `RingHom.Locally` file as well as this file

But I think we can have the by-hand proofs in the meantime.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/RingTheory/RingHom/OpenImmersion.lean [hunk 4]
```diff
@@ -30,13 +30,13 @@ variable {R S T : Type*} [CommSemiring R] [CommSemiring S] [CommSemiring T]
     [Algebra R S] : Prop where
   exists_away (R S) : ∃ r : R, IsLocalization.Away r S
 
-open IsStandardOpenImmersion
+namespace IsStandardOpenImmersion
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RingHom/OpenImmersion.lean:33]: Can you please double check that this doesn't change any name that is not an instance?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/RingHom/OpenImmersion.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/RingTheory/RingHom/OpenImmersion.lean:33]: The only named declaration that was previously in the scope of the `open` is `IsStandardOpenImmersion.trans`, for which I removed the prefix.

**Comment by chrisflav** [comment]
Thanks for the reviews!
bors r+
